US05977074
Step A: 2-Benzyloxycarbonylamino-3-trimethylsilyl-propanoic acid, methyl ester
A solution of 5.58 g (25 mmol) of N-benzyloxycarbonyl glycine methyl ester in dry THF (70 ml) is added dropwise to a solution at -78° C. of lithium diisopropylamine (8.76 ml, 62.5 mmol) and tetramethylethylene diamine (9.43 ml, 62.5 mmol) in dry THF (100 ml), under nitrogen. After the addition is complete, the solution is stirred for 2 hours at -78° C., then 15 minutes at -30° C. and cooled to -78° C. A solution of 5.36 g (25 mmol) of iodomethyl-trimethylsilane in dry hexamethylphosphoramide (39 ml) is added dropwise to the resultant syrupy mixture. After the addition is complete, the reaction mixture is warmed up to -50° C., kept at this temperature for 1 hour and cooled to -78° C., just before hydrolysis. The reaction mixture is quenched by addition of water and ammonium chloride and diluted with ether. The organic layer is washed with 1N potassium hydrogen sulfate, twice with water and dried over sodium sulfate. The solvent is evaporated and the residue obtained (8.03 g) is purified by flash chromatography (silica gel,ethyl acetate/petroleum ether: 2/8). 4.30 g of the title compound are obtained (yield: 56%) (colorless oil). Rf : 0.51 (ethyl acetate/petroleum ether: 2/8).

reactant | N-benzyloxycarbonyl glycine methyl ester | 25 mmol, 5.58 g | COC(CNC(=O)OCC1=CC=CC=C1)=O | C11H13NO4
reactant | lithium diisopropylamine | 62.5 mmol, 8.76 ml | C(C)(C)NC(C)C.[Li]
reactant | tetramethylethylene diamine | 62.5 mmol, 9.43 ml | CN(CCN(C)C)C | C6H16N2
reactant | iodomethyl-trimethylsilane | 25 mmol, 5.36 g | IC[Si](C)(C)C | C4H11ISi
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexamethylphosphoramide | 39 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-Benzyloxycarbonylamino-3-trimethylsilyl-propanoic acid, methyl ester | 4.30 g, yield: 56% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)C[Si](C)(C)C | C15H23NO4Si
